US04203932
1-Acetyl-2-Diethoxyphosphoryl Hydrazine
Diethylphosphorohydrazidate (5.3 g) and triethylamine (13 ml) were dissolved in dichloromethane (15 ml). To this solution was added dropwise with stirring and cooling a solution of acetyl chloride (7.4 g) in dichloromethane (15 ml). The mixture was then stirred at ambient temperature and then filtered to remove the triethylamine hydrochloride after the addition of 50 ml of anhydrous diethylether. The filtrates were stripped on a rotary evaporator to yield a red-brown oil which was distilled under high vacuum to give a pale yellow liquid, b.p. 180° C./1 mm, identified as the product.

reactant | Diethylphosphorohydrazidate | 5.3 g | C(C)OP(OCC)(=O)NN | C4H13N2O3P
reactant | triethylamine | 13 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 7.4 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 1-Acetyl-2-Diethoxyphosphoryl Hydrazine | C(C)(=O)NNP(=O)(OCC)OCC | C6H15N2O4P
